US07977352B2
F.14 4-(4-Cyclopropyl-piperazin-1-yl)-phenylamine
A mixture of 1-cyclopropyl-4-(4-nitrophenyl)piperazine (1.1 g, 4.4 mmol), 10% Pd/C (100 mg) in methanol (50 mL) is stirred under a hydrogen atmosphere (balloon) for 4 h. The catalyst is filtered off through a pad of Celite and the methanol solution is evaporated to give a oily product that became a reddish-brown solid on standing (0.9 g, 93%). The compound is used in the next step without further purification. LCMS-ESI (m/z): calcd for C13H19N3, 217.1; [M+H]+ found, 218.4.

reactant | 1-cyclopropyl-4-(4-nitrophenyl)piperazine | 4.4 mmol, 1.1 g | C1(CC1)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H17N3O2
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 4-(4-Cyclopropyl-piperazin-1-yl)-phenylamine | C1(CC1)N1CCN(CC1)C1=CC=C(C=C1)N | C13H19N3
